US04711885
Over a period of 40 minutes, 108 ml of ethyl acrylate are added to 38.3 g of N-(3-chlorophenyl)piperazine dissolved in 300 ml of anhydrous ethanol and 0.5 ml of Triton B. The temperature reaches 40° C. when addition is complete. After heating at reflux for 3 hours, the reaction mixture is concentrated in vacuo and the residue is distilled. 139 g of 4-(3-chlorophenyl)piperazin-1-ylpropionic acid ethyl ester are obtained, b.p/0.33 mmHg=176°-179° C.

reactant | ethyl acrylate | 108 ml | C(C=C)(=O)OCC | C5H8O2
reactant | N-(3-chlorophenyl)piperazine | 38.3 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-(3-chlorophenyl)piperazin-1-ylpropionic acid ethyl ester | 139 g | C(C)OC(C(C)N1CCN(CC1)C1=CC(=CC=C1)Cl)=O | C15H21ClN2O2
